data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1297,1420,[CH3:12][C:13](=[O:14])[CH:15]=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH:15]([C:13]([CH3:12])=[O:14])[O:16][C:17]2([C:18]([CH3:19])=[O:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,8.163939451101468,-55.96786218851766
1047,1142,[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[N:9]#[C:10][C:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:11]([C:10]#[N:9])=[N:12][C:13]3([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,13.632798506309562,-53.87933519702205
974,1058,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([C:18]#[N:19])=[N:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,16.7680995729102,-32.50072020241126
3078,3459,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH:9]=[O+:10][C-:11]([C:12]#[N:13])[C:14]#[N:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:11]([C:12]#[N:13])([C:14]#[N:15])[O:10][CH:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,8.095628332400432,-54.48412435728734
1345,1475,[CH3:1][C:2](=[O:3])[C:4]#[C:5][Br:6].[CH3:7][C:8](=[O:9])[C-:10]([NH+:11]=[C:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[C:21]([CH3:22])=[O:23]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[C:12]([C:13]#[N:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[NH:11][C:10]1([C:8]([CH3:7])=[O:9])[C:21]([CH3:22])=[O:23],water,298.15,22.08687837487641,-35.999253350012715
2041,2266,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]([CH3:17])=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[N:16]([CH3:17])[C:18]2([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,37.04295316972048,-19.67621233774292
4973,5660,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[CH:18]=[NH+:19][C-:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:20]([CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:19][CH:18]2[C:16]([CH3:15])=[O:17],water,298.15,16.16019805571193,2.3765196970309805
812,879,[CH3:13][C-:14]([CH3:15])[NH+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[NH:16][C:14]3([CH3:13])[CH3:15],water,298.15,9.036700354962672,-45.705420282227365
79,90,[CH2:8]=[O+:9][C-:10]([C:11]([CH3:12])=[O:13])[C:14]([CH3:15])=[O:16].[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[CH2:8][O:9][C:10]1([C:11]([CH3:12])=[O:13])[C:14]([CH3:15])=[O:16],water,298.15,9.004081128552333,-62.92821081412448
564,618,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[c:15](=[O:16])[o:17][c:18]([C:19]#[N:20])[n+:21]1[CH3:22].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[C:18]2([C:19]#[N:20])[O:17][C:15](=[O:16])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[N:21]2[CH3:22],water,298.15,20.57112167850706,-12.713145568951049
1729,1914,[CH3:14][NH:15][C:16](=[O:17])[C:18]([C:19]#[N:20])=[N+:21]([CH3:22])[N-:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([C:19]#[N:20])[N:21]([CH3:22])[N:23]2[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,32.79102982548896,0.1676204505556315
877,950,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[O-:23].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[O:23][N:21]([CH3:22])[CH:20]2[C:18]([NH:17][CH3:16])=[O:19],water,298.15,18.32075845588536,-25.140601319128223
